US05051413
11.5 g (56.4 mmols) of dicyclohexylcarbodiimid are added to a solution of 18.1 g (56.4 mmols) of E-2-formylamino-4-methyl-5-diisopropylphosphono-pentenoic acid, 6.1 g (56.4 mmols) of benzyl alcohol and 0.7 g of 4-(N,N-dimethylamino)pyridine in 140 ml of dichloromethane. The reaction mixture is stirred 2 hours in an ice bath and 10 hours at room temperature. The reaction solution is filtrated clear, washed with diluted hydrochloric acid and twice with water, dried over magnesium sulfate and chromatographed over silica gel with first ethyl acetate and then ethyl acetate/isopropanol as eluent. Benzyl E-2-formylamino-4-methyl-5-diisopropylphosphono-3-pentenoate is obtained as an orange-colored oil which can be crystallized from diethyl ether/hexane; m.p. 50°-58°.

reactant | dicyclohexylcarbodiimid | 56.4 mmols, 11.5 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | E-2-formylamino-4-methyl-5-diisopropylphosphono-pentenoic acid | 56.4 mmols, 18.1 g | C(=O)N\C(\C(=O)O)=C\C(CP(=O)(OC(C)C)OC(C)C)C | C13H24NO6P
reactant | benzyl alcohol | 56.4 mmols, 6.1 g | C(C1=CC=CC=C1)O | C7H8O
catalyst | 4-(N,N-dimethylamino)pyridine | 0.7 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | dichloromethane | 140 ml | ClCCl | CH2Cl2
product | Benzyl E-2-formylamino-4-methyl-5-diisopropylphosphono-3-pentenoate | C(=O)NC(C(=O)OCC1=CC=CC=C1)\C=C(\CP(=O)(OC(C)C)OC(C)C)/C | C20H30NO6P
